US07247728B2
3-Quinuclidinecarbonyl Chloride Hydrochloride
500 mg (2.61 mmol) of 3-quinuclidinecarboxylic acid are heated together with 1.9 ml (26.09 mmol) of thionyl chloride under reflux for 2 h. The reaction mixture is freed of excess thionyl chloride under reduced pressure. 20 ml portions of toluene are added twice and evaporated to dryness each time. The product obtained in this way is reacted immediately without further purification.

reactant | 3-quinuclidinecarboxylic acid | 2.61 mmol, 500 mg | N12CC(C(CC1)CC2)C(=O)O | C8H13NO2
reactant | thionyl chloride | 26.09 mmol, 1.9 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Quinuclidinecarbonyl Chloride Hydrochloride | Cl.N12CC(C(CC1)CC2)C(=O)Cl | InChI=1S/C8H12ClNO.ClH/c9-8(11)7-5-10-3-1-6(7)2-4-10;/h6-7H,1-5H2;1H
